*leakage in NAND2 Gate
.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
*.options INGOLD=2     DCON=1
*.options GSHUNT=1e-15
*.options RMIN=1e-15
.options ABSTOL=1e-18 
*.options RELTOL=1e-20  
*.options RELVDC=1e-2 
*.options NUMDGT=4     PIVOT=1e-13
*.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Net-list*************

.subckt nand_gate nodez nodea nodeb node1

MpA	nodez	nodea	node1 	node1 	pmos W={2*XX*Wmin} L={Lmin}	
MpB	nodez	nodeb	node1 	node1 	pmos W={2*XX*Wmin} L={Lmin}	

MnA	SD2	nodea	0 	0 	nmos W={2*XX*Wmin} L={Lmin}	
MnB	nodez	nodeb	SD2	0 	nmos W={2*XX*Wmin} L={Lmin}

.ends nand_gate

